US07196103B2
(i) Carbonic acid 1-chloro-ethyl ester 2-methoxy-ethyl ester
To a solution of 11.9 ml 2-Methoxy-ethanol and 17.98 ml 1-chloroethyl-chloroformate in 200 ml absolute CH2Cl2 13.3 ml pyridine were added at 5–10 ° C. in an argon atmosphere. The mixture was stirred at RT for 5 h and washed successively with 1 N HCl, with an aqueous solution of KHSO4/K2SO4 and water. The organic phase was dried over Na2SO4. After filtration, the solvent was removed in vacuo and the residue purified by destillation. Kp.=88° C. (5.5 mbar). Yield: 22.4 g.

reactant | 2-Methoxy-ethanol | 11.9 ml | COCCO | C3H8O2
reactant | 1-chloroethyl-chloroformate | 17.98 ml | ClC(C)OC(=O)Cl | C3H4Cl2O2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | Carbonic acid 1-chloro-ethyl ester 2-methoxy-ethyl ester | COCCOC(OC(C)Cl)=O | C6H11ClO4
